US09353107B2
Step-iii: 3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-5-(4-(piperazin-1-yl)phenyl)-1H-pyrrolo[2,3-b]pyridine hydrochloride
Using similar reaction conditions as described in step-ii of example-7, tert-butyl 4-(4-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazine-1-carboxylate (80 mg, 0.137 mmol) was deprotected in dioxane (1 ml), HCl in dioxane (3 ml). This afforded 5 mg (23.5% yield) of the titled compound. 1H NMR (DMSO-d6, 300 MHz): δ 9.14-9.0 (b, 1H), 8.54 (d, 1H), 7.92 (s, 1H), 7.63-7.60 (s 2H), 7.54-7.53 (s, 1H), 7.5 (m, 1H), 7.10-7.04 (m, 5H), 5.34 (s, 2H), 3.41 (m, 4H), 3.25 (m, 4H), 2.17-2.14 (d, 4H). MS: m/z=481.2 (M+1), HPLC: 90.3% in Method B.

reactant | tert-butyl 4-(4-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazine-1-carboxylate | 0.137 mmol, 80 mg | FC=1C=C(CN2N=C(C(=C2C)C2=CNC3=NC=C(C=C32)C3=CC=C(C=C3)N3CCN(CC3)C(=O)OC(C)(C)C)C)C=CC1 | C34H37FN6O2
reactant | HCl | Cl | ClH
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | 3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-5-(4-(piperazin-1-yl)phenyl)-1H-pyrrolo[2,3-b]pyridine hydrochloride | 5 mg, 23.5% yield | Cl.FC=1C=C(CN2N=C(C(=C2C)C2=CNC3=NC=C(C=C32)C3=CC=C(C=C3)N3CCNCC3)C)C=CC1 | InChI=1S/C29H29FN6.ClH/c1-19-28(20(2)36(34-19)18-21-4-3-5-24(30)14-21)27-17-33-29-26(27)15-23(16-32-29)22-6-8-25(9-7-22)35-12-10-31-11-13-35;/h3-9,14-17,31H,10-13,18H2,1-2H3,(H,32,33);1H
